US04677115
Step A: Preparation of 5,6-Dihydro-5-bromo-4H-thieno[2,3-b]thiopyran-4-one-2-sulfonamide
A solution of 5,6-dihydro-4H-thieno[2,3-b]thiopyran-4-one-2-sulfonamide (3.50 g, 0.014 m) in dry tetrahydrofuran (70 ml) was stirred at ambient temperature while a solution of pyridinium bromide perbromide (6.08 g, 0.019 m) in dry tetrahydrofuran (35 ml) and acetonitrile (10 ml) was added over 15 minutes. After stirring at ambient temperature for 1 hour, the reaction mixture was added to water (100 ml) and concentrated in vacuo to remove tetrahydrofuran and acetonitrile. The aqueous mixture was extracted with ethyl acetate (3×100 ml), the combined extracts were washed with water, dried over sodium sulfate and concentrated to dryness in vacuo. The residue was partially purified by chromatography on silica gel, eluting with 50% ethyl acetate-hexane, to yield 3.68 g (80%) of material which was used in the next reaction without further purification.

reactant | 5,6-dihydro-4H-thieno[2,3-b]thiopyran-4-one-2-sulfonamide | 3.50 g | S1C(=CC2=C1SCCC2=O)S(=O)(=O)N | C7H7NO3S3
reactant | pyridinium bromide perbromide | 6.08 g | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 5,6-Dihydro-5-bromo-4H-thieno[2,3-b]thiopyran-4-one-2-sulfonamide | 3.68 g, 80% | BrC1C(C2=C(SC1)SC(=C2)S(=O)(=O)N)=O | C7H6BrNO3S3
